2123-07-29 10:29:00 Physician Attending Progress Note
Chief Complaint: Hypotension, fever, acute renal failure, hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on cefipime and vanco.
   Patient comfortable this AM. Never required vasopressors with volume
   resuscitation. No dizziness. Still requiring intermittent fluid
   boluses. Creat improving.
   Neutropenia persists.
   Serum sodium improving
   24 Hour Events:
 EKG - At [**2123-7-29**] 05:02 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Hives;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2123-7-29**] 05:30 AM
   Cefipime - [**2123-7-29**] 07:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   tylenol, colace, MVI, vit D, tums, fluticasone nasal, citalopram,
   Klonapin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-29**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 90 (84 - 90) bpm
   BP: 87/54(67) {87/54(67) - 98/57(70)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             6,932 mL
   PO:
             120 mL
   TF:
   IVF:
   4,812 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    340 mL
   Urine:
   340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,592 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.32/40/92.[**Numeric Identifier 1176**]/21/-5
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Pharynx benign. No
   thrush or erythema
   Lymphatic: Large left submandibular node
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous:
   Diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Skin:  Not assessed, Rash: Diffuse erythema; purpuric on legs, No(t)
   Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   48 K/uL
   86 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   28 mg/dL
   104 mEq/L
   133 mEq/L
   26.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2123-7-29**]  04:50 AM
                             [**2123-7-29**]  08:23 AM
                             [**2123-7-29**]  08:34 AM
   WBC
   0.5
   0.4
   Hct
   31.8
   26.5
   Plt
   48
   Cr
   1.6
   1.3
   TCO2
   22
   Glucose
   79
   86
   Other labs: ALT / AST:61/112, Alk Phos / T Bili:61/0.7,
   Differential-Neuts:61.0 %, Band:8.0 %, Lymph:19.0 %, Mono:3.0 %,
   Eos:5.0 %, Lactic Acid:3.3 mmol/L, Albumin:2.4 g/dL, LDH:113 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.3 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: low lung volumes. No infiltrates or effusions.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 NEUTROPENIA
   ACUTE RENAL FAILURE
   ANEMIA
   HYPONATREMIA
   THROMBOCYTOPENIA
   ==========================
   Source of fever still unclear; skin is a concern. Continues on
   antibiotics.
   Neutropenia possibly related to Rituxan.
   Creatinine improving with fluids. Renal failure likely secondary to
   hypoperfusion.
   Hypotension probably combination of low SVR secondary to infection and
   some intravascular volume depletion. Doing better with fluids although
   still requiring intermittent boluses. Echo being performed to assess
   cardiac function. AM cortisol 21.
   Hct down with fluid resuscitatoin, along with platelet; underlying
   issue likely related to her cryoglobulins. No evidence of bleeding. Not
   at transfusion threshold.
   Serum sodium improved with fluid resuscitation; low level may have
   reflected free water ingestion in setting of volume depletion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-7-29**] 05:08 AM
   22 Gauge - [**2123-7-29**] 05:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-07-30 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2123-7-29**] 08:30 AM
 URINE CULTURE - At [**2123-7-29**] 09:03 AM
 TRANSTHORACIC ECHO - At [**2123-7-29**] 10:00 AM
 EKG - At [**2123-7-29**] 11:41 AM
 ARTERIAL LINE - START [**2123-7-29**] 08:10 PM
   - discussion with hepatology, heme/onc and rheum re: tx of
   cyroglobulinemia and given hemodynamics and coagulopathy, initiated
   stress dose steroids this pm, possible plasmapheresis after
   hemodynamics stabilized
   - Marrow in am
   - possible future tx of HCV with interferon and neupogen after counts
   up
   - s/p 4 punch biopsies by derm, needs suture removal in 14 days
   -EBV, CMV, parovirus PCR added
   -[**7-29**] blood cx: GRAM POSITIVE COCCUS(COCCI) IN PAIRS AND CHAINS.
   Allergies:
   Codeine
   Hives;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2123-7-29**] 08:00 PM
   Cefipime - [**2123-7-30**] 12:19 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-7-29**] 04:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (80 - 90) bpm
   BP: 113/74(91) {75/42(54) - 125/77(97)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,350 mL
                                                                  1,195 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  8,990 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    270 mL
   Urine:
                                                                  1,825 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,525 mL
                                                                    925 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.37/32/76.[**Numeric Identifier 128**]/17/-5
   PaO2 / FiO2: 217
   Physical Examination
   Gen: Pleasant, well appearing, NAD
   HEENT: No conjunctival lesions. No icterus. MMM. OP clear without
   mucosal ulcers or other lesions.
   NECK: Supple, palpable mass in L submandibular region which patient
   states is clogged salivary gland. JVP low.
   CV: RRR. nl S1, S2. No murmurs, rubs or [**Last Name (un) 1792**]
   LUNGS: CTAB. Diffuse wheezes. No rhonchi or rales.
   ABD: NABS. Soft, NT, ND. No palpable HSM.
   EXT: WWP, NO CCE. Full distal pulses bilaterally.
   SKIN: Diffuse/ extensive non-blanching rash over her lower ext
   extending to her buttock. Blanching, red/pink rash extending to
   abdomen.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact sensation throughout.
   5/5 strength throughout. Non-focal exam
   Labs / Radiology
   27 K/uL
   9.1 g/dL
   112 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.6 mEq/L
   23 mg/dL
   108 mEq/L
   137 mEq/L
   28.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2123-7-29**]  04:50 AM
                             [**2123-7-29**]  08:23 AM
                             [**2123-7-29**]  08:34 AM
                             [**2123-7-29**]  12:56 PM
                             [**2123-7-29**]  03:45 PM
                             [**2123-7-29**]  11:46 PM
                             [**2123-7-30**]  03:09 AM
   WBC
   0.5
   0.4
   0.3
   0.3
   Hct
   31.8
   26.5
   27.4
   28.4
   Plt
   48
   30
   31
   27
   Cr
   1.6
   1.3
   1.0
   0.9
   TCO2
   22
   20
   19
   Glucose
   79
   86
   100
   112
   Other labs: ALT / AST:60/88, Alk Phos / T Bili:59/1.1,
   Differential-Neuts:61.0 %, Band:8.0 %, Lymph:19.0 %, Mono:3.0 %,
   Eos:5.0 %, Lactic Acid:3.4 mmol/L, Albumin:2.4 g/dL, LDH:109 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   HCV viral load
 4,060,000
   HBV viral load
 not detectable
   Blood Cx ([**7-29**])
 prelim
 gram positive cocci in pairs and chains
   MRSA screen
 pending
   CMV viral load
 pending
   CXR -
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 NEUTROPENIA
   52 yoF with Lymphoplasmacytic lymphoma, Waldenstrom's
   macroglobulinemia, hepatitis C, h/o hepatitis B, and cryoglobulinemia
   admitted with new onset rash and transferred to the [**Hospital Unit Name 44**] for
   hypotension in the setting of neutropenia.
   .
   #. Hypotension: Pt was hypotensive SBP 60-70. Although she was asx and
   ambulating without complaints.  Additionally, her HR did not compensate
   for her drop in BP. The patient was also given Clonazepam and ambien 3
   hrs prior to the episode.  She was not orthostatic, but that was after
   2L IVF.  On arrive to the ICU her BP was 103/40 (near her baseline),
   but dropped back to SBP 70-60's. DDx: hypovolemia (dry MM on exam)
   possible insensible loss from skin, sepsis given neutropenia (pulm,
   blood, urine etc, although no localizing signs),  autonomic
   dysfunction, medication induced, adrenal insuff.
   - IVF bolus with 1000cc LP and monitor BP
   - cont cefepime and vanco for empiric coverage given neutropenia
   - f/u blood and urine cx
   - AM cortisol, consider [**Last Name (un) 45**]-stim
   - consider stress dose steroids
   - holding on narcotics, BZD, ambien
   - cont to closely monitor for hemodynamic instability and signs of
   sepsis
   - place a-line
   - Pt with 2 [**Last Name (LF) 1337**], [**First Name3 (LF) **] need CVL if conts to be hypotensive.
   - maintain MAPS >65, consider dopamine given only [**First Name3 (LF) 1337**]
   - ECHO for cardiac cause of hypotension (eval for effusion, unlikely
   tamponade)
   - check lactate
   .
   #. Acute Renal Failure. Pt with elevated Cr to 1.6 today. Was 0.9
   previously. DDx: pre-renal from hypovolemia vs. ATN given persistent
   hypotension.  See above for hypotension
   - urine lytes
   - cont to trend creatinine
   - avoid nephrotoxins and renally dose meds
   .
   #. Hyponatermia: Pt with Na 125. Possible etiology given volume status
   likley hypovolemic hyponatermia.
   - will check urine lytes
   - cont IVF as above
   - recheck Na in PM
   .
   # Rash: Derm was consulted and biopsy obtained on [**7-25**]. Given rash,
   arthralgias, fever and previous history of cryoglobulinemia concerned
   that this may be cryoglobulinemia and require active treatment with
   steroids and lamivudine, and Rituxan.
   - will touch base with hepatology, derm and rheum regarding further
   management
   - will discuss restarting lamivudine
   - cryoglobulins pending.
   - f/u C2, C4, CH50 for further confirmation of cryoglobulinemia
   .
   #. Non-gap metabolic acidosis: Likely [**1-25**] to NS administration
   overnight. Pt without GI loss. Will change to LR for fluid bolus. Cont
   to monitor.
   .
   #Pancytopenia: Pt now neutropenic with ANC <500. Pt has been afebrile.
   Likely in the setting of lamuvidine or rituxan.
   - appreciate OMED recs
   - cont Vanco & Cefepime for empiric coverage as above
   - neutropenic pre-cautions and diet
   - monitor CBC
   - will transfuse Hct <21 and Plts <10
   - cont to trend WBC
   .
   #Joint pain - Question as to inflammatory arthritis in joints of hand
   and feet. Rheum is following. Possible contribution of cryo.
   - pain control with tylenol max 2g
   - holding morphine given hypotension
   .
   # Hepatitis C: LFTs within recent baseline. Asympatomatic at this
   time.
   - will f/u with hepatology/GI regarding initiation of interferon
   therapy
   .
   # h/o hepatitis B:  Repeat labs above consistent with past infection.
   - appreciate hepatology recs
   - holding on lamivudine given rash
   - HBV viral load pending.
   .
   # lymphoplasmocytic lymphoma: Pt being treated with Rituxan.
   - defer management to Oncology
   .
   # FEN: IVF bolus as above, replete lytes, regular neutropenic diet
   .
   # PPx: pneumoboots. No indication for GI ppx.
   .
   # ACCESS: 2 [**Month/Day (2) 1337**]
   .
   # CODE: FULL
   .
   # DISP: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-7-29**] 05:08 AM
   22 Gauge - [**2123-7-29**] 05:09 AM
   Arterial Line - [**2123-7-29**] 08:10 PM
   Prophylaxis:
   DVT:  p-boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2123-07-31 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PHERESIS CATHETER - START [**2123-7-30**] 04:34 PM
   .
   - pheresis catheter placed by IR and completed one round of pheresis.
   Pt tolerated procedure well.
   - Pt felt SOB yesterday and desaturated to 90% RA. Put on 2L O2 by
   nasal canula.. This morning, not needing O2 and feeling well.
   -Received Lasix 10mg IV
   Allergies:
   Codeine
   Hives;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2123-7-30**] 08:45 PM
   Cefipime - [**2123-7-31**] 12:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-31**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 85 (72 - 88) bpm
   BP: 92/52(69) {92/52(69) - 146/89(108)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 93-96% RA
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,451 mL
                                                                    179 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  2,016 mL
                                                                    179 mL
   Blood products:
                                                                    235 mL
   Total out:
                                                                    765 mL
                                                                    316 mL
   Urine:
                                                                    765 mL
                                                                    316 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,686 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: none
   SpO2: 93-96%
   ABG: 7.44/26/62/23/-4 (respiratory alkalosis)
   Physical Examination
   Gen: Pleasant, well appearing, NAD
   HEENT: No conjunctival lesions. No icterus. MMM. OP clear without
   mucosal ulcers or other lesions.
   NECK: Supple, palpable mass in L submandibular region which patient
   states is clogged salivary gland.
   CV: RRR. nl S1, S2. Low pitched systolic murmur at lower L sternal
   border. No r/g
   LUNGS: Crackles L base; Right CTA.
   ABD: NABS. Soft, diffusely tender, ND. No palpable HSM.
   EXT: WWP, NO CCE. Full distal pulses bilaterally.
   SKIN: Diffuse/ extensive non-blanching rash over her lower ext
   extending to her buttock. Blanching, pink rash extending to abdomen.
   Improved from yesterday.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact sensation throughout.
   5/5 strength throughout. Non-focal exam
   Labs / Radiology
   69 K/uL
   8.1 g/dL
   106 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.3 mEq/L
   35 mg/dL
   107 mEq/L
   138 mEq/L
   25.3 %
   1.2 K/uL
        [image002.jpg]
   [**2123-7-31**] 4:13AM
                             [**2123-7-29**]  04:50 AM
                             [**2123-7-29**]  08:23 AM
                             [**2123-7-29**]  08:34 AM
                             [**2123-7-29**]  12:56 PM
                             [**2123-7-29**]  03:45 PM
                             [**2123-7-29**]  11:46 PM
                             [**2123-7-30**]  03:09 AM
                             [**2123-7-30**]  09:55 AM
                             [**2123-7-30**]  04:03 PM
                             [**2123-7-31**]  04:13 AM
   WBC
   0.5
   0.4
   0.3
   0.3
   1.2
   Hct
   31.8
   26.5
   27.4
   28.4
   25.3
   Plt
   48
   30
   31
   27
   73
   69
   Cr
   1.6
   1.3
   1.0
   0.9
   1.2
   TCO2
   22
   20
   19
   18
   Glucose
   79
   86
   100
   112
   106
   Other labs: PT / PTT / INR:15.1/35.0/1.3, ALT / AST:39/54, Alk Phos / T
   Bili:52/1.1, Differential-Neuts:61.0 %, Band:8.0 %, Lymph:19.0 %,
   Mono:3.0 %, Eos:5.0 %, D-dimer:2153 ng/mL, Fibrinogen:395 mg/dL, Lactic
   Acid:3.6 mmol/L, Albumin:2.7 g/dL, LDH:129 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.9 mg/dL
   .
   CXR [**2123-7-31**]: pending
   .
BCx [**7-29**]: one with GPC, one with CORYNEBACTERIUM OR propionibacterium
BCx [**7-30**]: NGTD
Ucx: positive for yeast
MRSA pending
Cryoglobulin: positive
CXR [**2123-7-31**]: increased infiltrate vs fluid at LLL compared to yesterday
C2: pending; C4: 3 (10-40)- c/w cryoglobulinemia; CH50
 pending
   Assessment and Plan
   52 yoF with Lymphoplasmacytic lymphoma, Waldenstrom's
   macroglobulinemia, hepatitis C, h/o hepatitis B, and cryoglobulinemia
   admitted with improving rash who was admitted to [**Hospital Unit Name 44**] for hypotension
   in setting of neutropenia.
   .
   #. Hypotension: BP improved with SBP in 90s. [**Month (only) 60**] be due to bacteremia.
    [**Month (only) 60**] have been due to adrenal insufficiency as pt responded to stress
   dose of steroids. Pt might also have been hypovolemic.
   - cont cefepime and vanco for empiric coverage given neutropenia
   - f/u blood and urine cx,
   -Continue surveillance cultures
   .
   # Bacteremia
 GPC and Corynebacterium positive. Pt remains afebrile.
   Bacteremia may be due to skin source vs contamination. If pt has HAP,
   this is less likely to cause bacteremia.
   -Continue vanco/cefepime for 7d course, then re-culture
   -Continue surveillance cultures until clear for 48h
   -f/u GPC Speciation
   .
   # Respiratory alkalosis
 most likely due to hyperventilation. Pt felt
   anxious yesterday and had new O2 requirement. Now resolved. Some
   worsening of CXR most likely atelectasis but may also represent
   infiltrate (HAP) vs pulm edema. Pt received lasix 10mg IV yesterday.
   -Continue vanco/cefepime
   -Monitor I/Os with goal even
   - IS for atelectasis
   .
   #. Acute Renal Failure.
 Slight Cr inrease from 0.9 to 1.2 today,
   possibly due to lasix given at midnight although pt only put out 100cc
   after the dose.
   -f/u urine lytes
   - cont to trend creatinine
   - avoid nephrotoxins and renally dose meds
   .
   # Rash: Consistent with leukocytoclastic vasculitis  due to
   cryoglublinemia. Much improved after plasmapheresis.
   -Next plasmapheresis tomorrow (Sunday) morning
   - f/u recs from hepatology, derm and rheum regarding further management
   - f/u C2, CH50 for further confirmation of cryoglobulinemia
   .
   #Pancytopenia: Pt now neutropenic with ANC <500. Pt has been afebrile.
   Likely in the setting of lamuvidine or rituxan.
   - appreciate OMED recs
   - cont Vanco & Cefepime for empiric coverage as above
   - neutropenic pre-cautions and diet
   - monitor CBC
   - will transfuse Hct <21 and Plts <10
   - cont to trend WBC
   .
   #. Hyponatremia: resolved
   - continue to trend lytes
   .
   #Joint pain - Question as to inflammatory arthritis in joints of hand
   and feet. Rheum is following. Possible contribution of cryo.
   - pain control with tylenol max 2g
   - holding morphine given hypotension
   .
   # Hepatitis C: LFTs within recent baseline. Asympatomatic at this
   time.
   - will f/u with hepatology/GI regarding initiation of interferon
   therapy
   .
   # h/o hepatitis B:  Repeat labs above consistent with past infection.
   - appreciate hepatology recs
   - holding on lamivudine given rash
   - HBV viral load pending.
   .
   # lymphoplasmocytic lymphoma: Pt being treated with Rituxan.
   - defer management to Oncology
   ICU Care
   Nutrition:
   Regular
 neutropenic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-7-29**] 05:08 AM
   Arterial Line - [**2123-7-29**] 08:10 PM
 will d/c before leaving
   Pheresis Catheter - [**2123-7-30**] 04:34 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  Famotidine 20mg PO Qday
   VAP:
   Comments:
   Communication:  Comments:  Patient
   Code status: Full code
   Disposition: Call out to OMED today

2123-07-31 11:19:00 Physician Attending Progress Note
Chief Complaint: Hypotension, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Plasmapharesis started yesterday; no hypotension. O2 sats down slightly
   and started on nasal O2. Lasix also given.
   24 Hour Events:
 PHERESIS CATHETER - START [**2123-7-30**] 04:34 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Hives;
   Latex
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2123-7-31**] 07:50 AM
   Vancomycin - [**2123-7-31**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Tylenol,calcium, vit D, fluticasone, Klonopin, abuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-7-31**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 86 (72 - 88) bpm
   BP: 115/70(89) {92/52(69) - 146/81(108)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,451 mL
                                                                    910 mL
   PO:
                                                                    200 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  2,016 mL
                                                                    510 mL
   Blood products:
                                                                    235 mL
   Total out:
                                                                    765 mL
                                                                    536 mL
   Urine:
                                                                    765 mL
                                                                    536 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,686 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic), I-II/VI early systolic murmur at lower sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : right, Crackles : left base, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Diffusely, No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   69 K/uL
   106 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.3 mEq/L
   35 mg/dL
   107 mEq/L
   138 mEq/L
   25.3 %
   1.2 K/uL
        [image002.jpg]
                             [**2123-7-29**]  04:50 AM
                             [**2123-7-29**]  08:23 AM
                             [**2123-7-29**]  08:34 AM
                             [**2123-7-29**]  12:56 PM
                             [**2123-7-29**]  03:45 PM
                             [**2123-7-29**]  11:46 PM
                             [**2123-7-30**]  03:09 AM
                             [**2123-7-30**]  09:55 AM
                             [**2123-7-30**]  04:03 PM
                             [**2123-7-31**]  04:13 AM
   WBC
   0.5
   0.4
   0.3
   0.3
   1.2
   Hct
   31.8
   26.5
   27.4
   28.4
   25.3
   Plt
   48
   30
   31
   27
   73
   69
   Cr
   1.6
   1.3
   1.0
   0.9
   1.2
   TCO2
   22
   20
   19
   18
   Glucose
   79
   86
   100
   112
   106
   Other labs: PT / PTT / INR:15.1/35.0/1.3, ALT / AST:39/54, Alk Phos / T
   Bili:52/1.1, Differential-Neuts:61.0 %, Band:8.0 %, Lymph:19.0 %,
   Mono:3.0 %, Eos:5.0 %, D-dimer:2153 ng/mL, Fibrinogen:395 mg/dL, Lactic
   Acid:3.6 mmol/L, Albumin:2.7 g/dL, LDH:129 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: basilar interstitial infiltrates. Left hemidiaphragm now
   well visualized.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 NEUTROPENIA
   ACUTE RENAL FAILURE
   ANEMIA
   THROMBOCYTOPENIA
   =========================
   Blood pressure stable; no problems during the plasmapharesis.
   Continuing antibiotics. Not clear there was truly an infection.
   Consider a 7 day course of antibiotics and then stop and reculture.
   Afebrile.
   Creat up slightly. Hold fluids even.
   Hct stable. Not at transfusion threshold.
   Platelet count increased. Not at transfusion threshold.
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-7-29**] 05:08 AM
   Arterial Line - [**2123-7-29**] 08:10 PM
   Pheresis Catheter - [**2123-7-30**] 04:34 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes